US07956216B2
37A: N-isoamyl-3-phenylbenzamide
Using Preparation Method 1, 3-phenylbenzoic acid was reacted with isoamylamine. The resulting reaction mixture was purified using SiO2 with CH2Cl2 100%. An off-white crystalline solid was obtained (61%). NMR 1H (ppm, CDCl3): 7.96 (s, 1H), 7.69 (d, J3=8.3 Hz, 2H), 7.59 (d, J3=7.2 Hz, 2H), 7.50-7.33 (m, 4H), 6.10 (br. s., 1H), 3.52-3.45 (m, 2H), 1.76-1.64 (m, 1H), 1.52 (quart., 2H), 0.95 (d, J3=6.6 Hz, 6H).

reactant | 3-phenylbenzoic acid | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | isoamylamine | C(CC(C)C)N | C5H13N
product | N-isoamyl-3-phenylbenzamide | C(CC(C)C)NC(C1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H21NO
